US07320986B2
phenyl 6-chloronicotinate
A mixture of 6-chloronicotinic acid (68.0 g, 0.431 mol), phenol (40.6 g, 0.431 mol), DCC (93.6 g, 0.453 mol), and DMAP (1.60 g, 0.0129 mol) in ether (1 L) was stirred at room temperature overnight. The solvent was evaporated and the residue was stirred in CH2Cl2. The solid was filtered and the filtrate was purified by flash chromatography eluted with CH2Cl2 to give 88.0 g (88%) of the desired product. MS (DCI/NH3) m/z: 234.0 (M+H)+; 1H NMR (300 MHz, CDCl3) δ ppm 7.22 (d, J=8.14 Hz, 2H) 7.31 (t, J=7.29 Hz, 1H) 7.47 (dd, J=17.12, 7.97 Hz, 3H) 8.40 (m, 1H) 9.17 (d, J=1.70 Hz, 1H).

reactant | 6-chloronicotinic acid | 0.431 mol, 68.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | phenol | 0.431 mol, 40.6 g | C1(=CC=CC=C1)O | C6H6O
reactant | DCC | 0.453 mol, 93.6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.0129 mol, 1.60 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | 1 L | CCOCC | C4H10O
product | phenyl 6-chloronicotinate | 88.0 g, 88% | ClC1=NC=C(C(=O)OC2=CC=CC=C2)C=C1 | C12H8ClNO2
